US04564612
A half g of tert-butyl 3(R)-[1(S)-ethoxycarbonyl-5-phthalimidopentyl]amino-4-oxo-2,3,4,5-tetrahydro-1,5-benzothiazepine-5-acetate is treated with hydrazine in a manner similar to that described in Reference Example 44, and then reacted with acetyl chloride to give tert-butyl 3(R)-[5-acetylamino-1(S)-ethoxycarbonylpentyl]amino-4-oxo-2,3,4,5-tetrahydro-1,5-benzothiazepine-5-acetate (0.25 g) as a colorless oil.

reactant | tert-butyl 3(R)-[1(S)-ethoxycarbonyl-5-phthalimidopentyl]amino-4-oxo-2,3,4,5-tetrahydro-1,5-benzothiazepine-5-acetate | C(C)OC(=O)[C@H](CCCCN1C(C=2C(C1=O)=CC=CC2)=O)N[C@H]2CSC1=C(N(C2=O)CC(=O)OC(C)(C)C)C=CC=C1 | C31H37N3O7S
reactant | hydrazine | NN | H4N2
reactant | acetyl chloride | C(C)(=O)Cl | C2H3ClO
product | tert-butyl 3(R)-[5-acetylamino-1(S)-ethoxycarbonylpentyl]amino-4-oxo-2,3,4,5-tetrahydro-1,5-benzothiazepine-5-acetate | 0.25 g | C(C)(=O)NCCCC[C@@H](C(=O)OCC)N[C@H]1CSC2=C(N(C1=O)CC(=O)OC(C)(C)C)C=CC=C2 | C25H37N3O6S
